US07345163B2
Octadecyloxytriphenylmethane (C18 Tr-OH) was prepared in a Grignard procedure starting from octadecyloxyphenyl bromide and magnesium in dry THF. Benzophenone was added to the metalorganic compound and the product was hydrolyzed with 2 M HCl. The worked-up reaction mixture was dried, evaporated, and the pure product crystallized from toluene. The trityl alcohol was converted to the trityl chloride by treatment with an excess of acetylchloride.

reactant | octadecyloxyphenyl bromide | C(CCCCCCCCCCCCCCCCC)OC1=C(C=CC=C1)Br | C24H41BrO
reactant | magnesium | [Mg] | Mg
reactant | Benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | HCl | 2 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | Octadecyloxytriphenylmethane | C(CCCCCCCCCCCCCCCCC)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H52O
